US04235918
2.1 g of triethylamine are rapidly added dropwise to a mixture of 6.2 g 4-(4-chloro-3-chlorosulfonylphenyl)-4-oxobutanoic acid and 2.2 g of ethyl chloroformate in 20 ml of absolute tetrahydrofurane at a rate such that the internal temperature is maintained between -5° and -10° C. The mixture is stirred for about 5 to 10 minutes at -5° to 0° C. and 1.55 ml of a 4% strength solution of gaseous methylamine in tetrahydrofurane is rapidly added dropwise. Stirring is continued for 15 to 20 minutes at 10°-15° C., the reaction mixture is poured into water and extracted twice, each time with 80 ml of ethyl acetate. The organic phase is washed once with 50 ml of 0.01 N hydrochloric acid at 0° C. and once with cold bicarbonate solution, dried for one hour over Na2SO4 at 0°-10° C. while stirring with a magnetic stirrer and concentrated on a rotavapor (bath temperature ≤30° C.). The 5-(4-chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-oxo-pyrrolidine is mostly obtained in the form of an amorphous residue. After addition of 20 ml of 40% strength aqueous methylamine solution (cooling) the mixture is stirred overnight at room temperature, concentrated and allowed to crystallize under water. Colorless crystals, melting point 112°-114° C. (from ethanol).

reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-4-oxobutanoic acid | 6.2 g | ClC1=C(C=C(C=C1)C(CCC(=O)O)=O)S(=O)(=O)Cl | C10H8Cl2O5S
reactant | ethyl chloroformate | 2.2 g | ClC(=O)OCC | C3H5ClO2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(4-chloro-3-chlorosulfonylphenyl)-5-hydroxy-1-methyl-2-oxo-pyrrolidine | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(=O)(=O)Cl | C11H11Cl2NO4S
